** Continuous and discrete filter blocks


******************************************************************
********* Continuous Filters
******************************************************************
.subckt 1stOrder_LowPassFilter In Out
E1 N001 0 In 0 1
E2 Out 0 N002 0 {K}
R1 N002 N001 {R1}
C1 N002 0 {C1}
.param K=1 fc=1000 
.param R1=1/(2*pi*fc)**2 C1=2*pi*fc
.ends 1stOrder_LowPassFilter

.subckt 2ndOrder_LowPassFilter In Out
E1 N001 0 In 0 1
E2 Out 0 N002 0 {K}
L1 N001 P001 {L1} Rser=0
R1 P001 N002 {R1}
C1 N002 0{C1}
.param K=1 kf=0.7 fc=1000
.param L1=1/(2*pi*fc) C1=1/(2*pi*fc) R1=2*kf 
.ends 1stOrder_LowPassFilter

.subckt 1stOrder_HighPassFilter In Out
E1 N001 0 In 0 1
E2 Out 0 N002 0 {K}
R1 0 N002 {R1}
C1 N002 N001 {C1}
.param K=1 fc=1000 
.param R1=1/(2*pi*fc)**2 C1=2*pi*fc
.ends 1stOrder_HighPassFilter

.subckt 2ndOrder_HighPassFilter In Out
E1 N001 0 In 0 1
E2 Out 0 N002 0 {K}
C1 N001 P001 {C1}
R1 P001 N002 {R1}
L1 N002 0 {L1} Rser=0
.param K=1 kf=0.7 fc=1000
.param L1=1/(2*pi*fc) C1=1/(2*pi*fc) R1=2*kf 
.ends 2ndOrder_HighPassFilter

.subckt 2ndOrder_BandStopFilter In Out
E1 N001 0 In 0 1
E2 Out 0 N002 0 {K}
R1 N001 N002 {R1}
C1 N002 N003 {C1}
L1 N003 0 {L1} Rser=0
.param K=1 fo=60 fb=20 
.param L1=1/(2*pi*fo) C1=1/(2*pi*fo) R1=fb/fo
.ends 2ndOrder_BandStopFilter

.subckt 2ndOrder_BandPassFilter In Out
E1 N001 0 In 0 1
E2 Out 0 N002 0 {K}
L1 N001 P001 {L1} Rser=0
C1 P001 N002 {C1}
R1 N002 0 {R1}
.param K=1 fo=60 fb=20 
.param L1=1/(2*pi*fo) C1=1/(2*pi*fo) R1=fb/fo
.ends 2ndOrder_BandPassFilter