** Voltage and current sensors



.subckt VoltageSensor In+ In- Out
E3 Out 0 In+ In- {K}
.param K=1
.ends VoltageSensor

.subckt CurrentSensor In+ In- Out
V1 In+ In- 0 Rser=0
H1 Out 0 V1 {K}
.param K=1
.ends CurrentSensor

